US05753664
7-[4-[4-(Trifluoromethyl)benzoyl]benzyl]-1,3-dimethylxanthine
To a solution of theophylline (1.80 g) in DMF (20 ml) were added potassium carbonate (1.66 g) and 4-[4-(trifluoromethyl)benzoyl]benzyl bromide (3.43 g) and the mixture was stirred at room temperature for 20 hours. This reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with saturated aqueous NaCl solution and dried over anhydrous sodium sulfate and the solvent was distilled off. To the residue was added 4N-hydrogen chloride/ethyl acetate and the resulting precipitate was harvested by filtration. To this precipitate was added a saturated aqueous solution of NaHCO3 and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous NaCl solution and dried over anhydrous sodium sulfate and the solvent was distilled off to provide the title compound as colorless powder (1.57 g, 36%).

reactant | theophylline | 1.80 g | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
reactant | potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-[4-(trifluoromethyl)benzoyl]benzyl bromide | 3.43 g | FC(C1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1)(F)F | C15H10BrF3O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-[4-[4-(Trifluoromethyl)benzoyl]benzyl]-1,3-dimethylxanthine | 1.57 g, 36% | FC(C1=CC=C(C(=O)C2=CC=C(CN3C=NC=4N(C(N(C(C34)=O)C)=O)C)C=C2)C=C1)(F)F | C22H17F3N4O3
